US09289419B2
Synthesis of tert-butyl 3-hydroxyazetidine-1-carboxylate
Cold aqueous NaOH (3.65 g, 91.25 mmol in 25 mL of water) was added to cold (0° C.) solution of azetidin-3-ol hydrochloride (4 g, 36.5 mmol) in water (15 mL) followed by addition of di-tert-butyl dicarbonate (8.4 mL, 38.33 mmol). The reaction mixture was stirred continuously at 20-35° C. for 12-14 h. The reaction mixture was diluted with ethyl acetate; the organic layer was separated, washed with water followed by brine solution, dried over anhydrous sodium sulphate and concentrated under reduce pressure to afford the crude compound, which was purified by column chromatography (using 60-120 silica gel and 30% EtOAc in Hexane as eluent) to afford 3.5 g of the title compound.

reactant | NaOH | 91.25 mmol, 25 mL, 3.65 g | [OH-].[Na+]
reactant | azetidin-3-ol hydrochloride | 36.5 mmol, 4 g | Cl.N1CC(C1)O
reactant | di-tert-butyl dicarbonate | 38.33 mmol, 8.4 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 15 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 3-hydroxyazetidine-1-carboxylate | 3.5 g | OC1CN(C1)C(=O)OC(C)(C)C | C8H15NO3
